US08802659B2
To a solution of 6-bromo-2-(trans-4-tert-butylcyclohexyloxy)-1-(trifluoromethyl)naphthalene (1 g, 2.3 mmol) in THF (30 mL) was added n-BuLi (2.8 mL, 2.5M in THF, 3.0 equiv) dropwise at −78° C. in 30 min, then DMF (840 mg, 11.5 mmol, 5.0 equiv) was added slowly at −78° C. The reaction mixture was stirred at −78° C. for 1.5 h. Then saturated NH4Cl solution was added to the mixture to quench the reaction. The mixture was extracted with EtOAc and purified by silica gel chromatography (petroleum ether:ethyl acetate 10:1) to give product 6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-2-naphthaldehyde as a yellow solid (608 mg, 70%) ESI-MS: 379.2 (M+H)+. 1H NMR (400 MHz, CDCl3) δ: 10.13 (s, 1H), 8.28 (d, 2H), 8.08 (d, 1H), 7.98-8.01 (dd, 1H), 7.41 (d, 1H), 4.39 (m, 1H), 2.21 (d, 2H), 1.90 (d, 2H), 1.49-1.58 (q, 2H), 1.10-1.17 (m, 3H), 0.86 (s, 9H)

reactant | 6-bromo-2-(trans-4-tert-butylcyclohexyloxy)-1-(trifluoromethyl)naphthalene | 2.3 mmol, 1 g | BrC=1C=C2C=CC(=C(C2=CC1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C21H24BrF3O
reactant | n-BuLi | 2.5M, 2.8 mL, 3.0 equiv | [Li]CCCC
reactant | DMF | 11.5 mmol, 840 mg, 5.0 equiv | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-2-naphthaldehyde | 608 mg, 70% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)C=O)C(F)(F)F | C22H25F3O2
